Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
Lumbar puncture without complications
 
History of Present Illness:
Neurology Consult Note

Reason for Consult: confusion 

___ stroke scale: ___ at noon
Reason TPA was not done: Out of window and low suspicion for
ischemic stroke
Reason thrombectomy was not done or considered: Out of window 
and
___ stroke scale 0, which low suspicion for large vessel
occlusion

HPI: Ms. ___ is a ___ year old woman with history of HTN, HLD,
and non-insulin dependent DM who presents following a prolonged
episode of confusion, sensory changes and disorientation. 
History
is provided from patient both by phone ___ interpreter and
daughter at bedside.

The patient was in her usual state of health until noon
yesterday.  She reports suddenly experiencing paresthesias
described as pins-and-needles sensation and bilateral arms and
legs circumferentially, sparing the torso and face.  She also
felt dizzy, which she is unable to pinpoint further despite
multiple attempts with interpreter; she does deny room spinning
vertigo.  Shortly thereafter, she felt disoriented and confused. 

The patient does not remember much of the events between noon
when this started and 3 ___.  Per the daughter who was with her 
at
the time, she did not know the month, year, or names of her
daughters.  This was particularly concerning as she lives with 5
daughters and is intimately involved in their lives.  She was
able to form sentences, but had a anomia to high-frequency words
and mild word finding difficulties. For example, she reported
that she felt parasthesias, but when asked to describe further,
she kept saying "I have it....I have it on the arms."  The
patient does not remember saying this or her daughter asking
questions.  At one point, she began speaking in ___, which
was unusual as she and her family are primarily ___
speaking.  The patient does not recall this.

By 3pm, other members of the family began arriving home from
work.  She continued to be oriented to self only, not oriented 
to
place or year, and with persistent confusion.  She continued to
feel dizzy and have paresthesias of her limbs.  Her daughters
measure her blood pressure around this time and it was 174/100,
which is higher than how she normally runs.

Symptoms persisted, and she went to bed at 11 ___.  When she woke
up this morning around 8 AM, patient felt a bitemporal
"squeezing" headache without associated migrainous symptoms such
as photophobia, phonophobia, visual symptoms, nausea or 
vomiting.
The patient herself otherwise felt like symptoms had resolved 
and
she was back to her normal state of health.  However, her
daughter noted that she was still oriented to self only, and had
a persistent anomia (but not as severe as before).  Concerned,
she brought her to the emergency department for further
evaluation. 

As alluded to above, the patient has minimal recollection of the
events between 12 and 3 ___ yesterday.  Between 3 and 6 ___, she
had some recollection.  By 6 ___ onward, she remembered the 
events
normally.

Daughter and patient believe she is back to baseline over the
last 30 minutes, since being in her ED bed. 

Prior to above, denies any recent illness, denies fevers/chills,
denies new medications. Patient reports sometimes she misses
medication doses, but denies any missed doses recently. 

On neurologic review of systems:
+ Reports improving dull h/a. 
- Currently denies headache, loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. Denies difficulty with gait.

On general review of systems:
-  Denies recent fever or chills.  No night sweats or recent
weight loss or gain. Denies cough, shortness of breath.  Denies
chest pain or tightness, palpitations.  Denies nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in
bowel or bladder habits.  No dysuria.  Denies arthralgias or
myalgias. Denies rash.

 
Past Medical History:
HTN
HLD
T2DM
 
Social History:
___
Family History:
Mother and father both had strokes at age ___. No family history 
of neurologic disease otherwise. 

 
Physical Exam:
ON ADMISSION:
==============
Physical Exam:
Vitals: T 98.2F, HR 70, BP 138/69, RR 16, 98% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive
to examiner. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. The pt had good
knowledge of current events. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg  with
some sway but not positive.

ON DISCHARGE:
=================
24 HR Data (last updated ___ @ 023)
    Temp: 98.8 (Tm 98.8), BP: 151/84 (137-163/83-94), HR: 60
(59-71), RR: 16 (___), O2 sat: 96% (96-97), O2 delivery: RA   

General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive
to examiner. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.
Suprapatellars present bilaterally 

-Coordination: No intention tremor
- Gait: deferred

 
Pertinent Results:
___ 06:54AM BLOOD WBC-7.1 RBC-4.45 Hgb-13.0 Hct-40.3 MCV-91 
MCH-29.2 MCHC-32.3 RDW-12.5 RDWSD-41.1 Plt ___
___ 06:54AM BLOOD ___ PTT-29.5 ___

___ 06:54AM BLOOD Glucose-130* UreaN-8 Creat-0.8 Na-144 
K-3.8 Cl-107 HCO3-25 AnGap-12
___ 11:05AM BLOOD ALT-16 AST-19 AlkPhos-62 TotBili-0.6
___ 11:05AM BLOOD Lipase-24
___ 06:54AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.2

___ 05:01PM BLOOD %HbA1c-6.0 eAG-126
___ 11:05AM BLOOD Triglyc-92 HDL-57 CHOL/HD-3.3 LDLcalc-112

___ 11:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 11:11AM BLOOD Lactate-2.0
___ 11:05AM BLOOD cTropnT-<0.01

URINE:
=======
-Color-Straw Appear-Clear Sp ___ Nitrite-NEG Protein-NEG 
Glucose-150* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
-bnzodzp-NEG barbitr-NEG opiates-NEG cocaine-NEG amphetm-NEG 
oxycodn-NEG mthdone-NEG

CSF:
=====
-TNC-1 RBC-9* Polys-11 ___ Monos-31 TotProt-45 Glucose-92
-HSV PCR: Negative

PENDING: PARANEOPLASTIC AUTOANTIBODY EVALUATION, CSF-PND

CULTURES:
====================
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

DIAGNOSTICS:
===============
___ MR ___ w/wo:
IMPRESSION:
1. No significant change of signal abnormalities in the both 
medial temporal lobes, left more than right, bilateral parietal 
and occipital lobes, splenium of the corpus callosum and left 
frontal lobe with differential considerations again including 
herpes encephalitis or acute/subacute inflammatory process.
2. Unchanged mild swelling of the left medial temporal lobe with 
mass effect on the left middle cerebellar peduncle and mild 
effacement of the left perimesencephalic cisterns.
3. Given the enhancement which is not a usual feature of HSV 
encephalitis,
other possibilities such as infiltrative lesion need to be 
considered as well.

___ MR ___ w/wo:
IMPRESSION:
1. Slow diffusion, and FLAIR hyperintensity along the bilateral, 
left greater than right, medial temporal lobes, and areas of 
FLAIR high-signal intensity in the right parieto-occipital lobes 
and splenium of the corpus callosum, constellation of findings 
are highly concerning for herpes encephalitis or acute/subacute 
inflammatory process.
2. There is mild-to-moderate pattern of enhancement along the 
medial aspect of the left temporal lobe.
3. There is no evidence of hemorrhagic transformation.

___ EEG:
IMPRESSION: This continuous video EEG monitoring study captured 
no pushbutton activations. It showed a normal background in 
wakefulness, except for minimal theta slowing in the left 
temporal region and several low voltage spikes or sharp waves in 
the same area. Nevertheless, there were no electrographic 
seizures. Compared to the prior day's recording, the left 
temporal discharges were less prominent.

___ Extended Routine EEG:
IMPRESSION: This extended routine EEG was abnormal due to: One 
electrographic seizure lasting 47 seconds, arising from the left 
anterior temporal region, with minimal clinical manifestations 
of brief eye/mouth opening. There were 1 second bursts of brief 
rhythmic epileptiform discharges (BRD's) arising from the same 
region, that often occurred in a periodic pattern every ___ 
seconds, at times with a broad field to the right hemisphere. 
These findings indicate an underlying area of cortical 
hyperexcitability and very high propensity for seizures. Bursts 
of focal slowing were frequently seen in the left hemisphere 
often extending to the right side also, indicative of underlying 
subcortical dysfunction.

___ CTH and CTA H/N
IMPRESSION:
1. Hypodensity along the medial left temporal lobe is concerning 
for an
infectious, acute/subacute ischemic, or inflammatory process, 
correlation with MRI is recommended.
2. The vessels of the ___ and neck appear patent and without 
high-grade
stenosis, occlusion, or aneurysmal change.
3. 4 mm hypodensity in the right thyroid lobe.

 
Brief Hospital Course:
Ms ___ is a ___ year old woman with a h/o HTN, HLD, NIDDM who 
presented to the ED with sudden onset prolonged confusion, 
sensory changes and disorientation. She was admitted to the 
floor after her MRI ___ showed FLAIR hyperintensities in the 
bilateral temporal lobes and right parietooccipital lobe with 
c/f herpes encephalitis or acute/subacute inflammatory 
processes. She has known HSV (cold sores)

She was found to have electrographic seizures and started on 
keppra 750mg BID with a loading dose. She was empirically 
started on acyclovir to treat a possible herpes encephalitis. 
She was maintained on cvEEG. Toxic-metabolic workup was normal, 
CSF studies were within normal limits. Her 5 daughters at 
bedside noted that she improved in the ED and has since returned 
to baseline.

HSV PCR returned back negative. Repeat MRI was performed which 
was further suggestive of a ___ tumor, likely glioma vs. 
lymphoma. Case discussed with ___ and Neurosurgery 
with plans for outpatient evaluation

TRANSITIONAL ISSUES:
====================
-Pt will undergo MRI ___ w/ and w/o later during week of 
discharge to ensure lesion is stable
-Pt will follow up in ___ Tumor Center with Dr. ___ in 
near future
-Pt will be contacted by Neurosurgery regarding arrangement of 
___ biopsy
-Pt will continue Keppra 750mg BID
[] PCP: follow up 4mm hypodensity in right thyroid seen on CTA 
H/N
 
Medications on Admission:
Metformin 1000mg BID
Atorvastatin 40mg daily
Vitamin D 2000u daily
Atenolol 100mg daily
Amlodipine 5mg daily 
 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  LevETIRAcetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
3.  amLODIPine 5 mg PO DAILY  
4.  Atenolol 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ tumor

 
Discharge Condition:
Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Able to
name ___. Attentive to examiner. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

 
Discharge Instructions:
 You were admitted to the hospital because you  had an episode 
of confusion.

 WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 You were admitted to the General Neurology service after an 
episode of confusion and abnormal findings on your MRI. You were 
placed on EEG on which we saw a seizure, prompting initiation of 
Levetiracetam (Keppra) to prevent further seizures. Due to 
concern for herpes infection involving the ___, you underwent 
a spinal tap for evaluation and started on an anti-viral 
medication, Acyclovir. This medication was stopped when labs 
came back negative for herpes in the nervous system. You 
underwent a repeat MRI which continued to show same abnormal 
findings, raising concern for a ___ tumor. We discussed with 
our ___ and ___ colleagues and plan for 
further diagnostic evaluation as an outpatient.  

 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Take all of your medications as prescribed (listed below) 
including Levetiracetam 750mg twice daily  
 - Repeat MRI ___ w/ and w/o as an outpatient later this week 
(ideally ___ or ___
 - Keep your follow up appointments with your doctors as noted 
below    
 - If you experience any of the danger signs listed below please 

call your primary care doctor or come to the emergency 
department immediately.

 It was a pleasure participating in your care. We wish you the 
best!  

 - Your ___ Care Team  

 
Followup Instructions:
___